* NGSPICE file created from top.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_4 abstract view
.subckt sky130_fd_sc_hd__clkbuf_4 A VGND VNB VPB VPWR X
.ends

.subckt top VGND VPWR detector_in[0] detector_in[1] phase_map_out[0] phase_map_out[1]
XFILLER_0_3_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_0_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_9_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_6_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_6 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_32 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_10_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_10_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_1_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_4_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_1_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_10_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_1_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_3_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
Xinput1 detector_in[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__clkbuf_1
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xinput2 detector_in[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_1
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_2_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_8_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_5_ _1_ VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__clkbuf_1
X_4_ net1 net2 VGND VGND VPWR VPWR _1_ sky130_fd_sc_hd__or2_1
XFILLER_0_12_6 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_11_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_3_ _0_ VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_5_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_10_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_11_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
X_2_ net2 VGND VGND VPWR VPWR _0_ sky130_fd_sc_hd__clkbuf_1
XTAP_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_32 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_11_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_11_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_8_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_5_16 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_28 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_2_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XTAP_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_12_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_2_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_13 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput3 net3 VGND VGND VPWR VPWR phase_map_out[0] sky130_fd_sc_hd__clkbuf_4
XFILLER_0_3_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput4 net4 VGND VGND VPWR VPWR phase_map_out[1] sky130_fd_sc_hd__clkbuf_4
XFILLER_0_6_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_12_29 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_12_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_3_27 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_11_3 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
XFILLER_0_9_15 VGND VGND VPWR VPWR sky130_ef_sc_hd__decap_12
.ends

